US08802704B2
Step 2: 2-(methoxymethyl)-2′-(trifluoromethyl)biphenyl-4-carboxylic acid
Lithium hydroxide monohydrate (2.29 g, 54.7 mmol) was added into a solution of methyl 2-(methoxymethyl)-2′-(trifluoromethyl)biphenyl-4-carboxylate (8.0 g, 27.3 mmol) in THF (100 mL), MeOH (30 mL) and water (30 mL). The resulting mixture was stirred at RT for 12 hours, and then the reaction mixture was concentrated under vacuum. The remaining aqueous layer was acidified with a concentrated aqueous solution of HCl and extracted with EtOAc. Then the organic layer was washed with water and brine, and then dried (Na2SO4) and concentrated under vacuum. The resulting solid was suspended in Et2O (30 mL), filtered and dried under vacuum to afford of the title compound as a pale yellow solid (6.2 g, 74%). LC/MS (Method B): 309.0 (M−H)−. 1H NMR (DMSO-d6, 400 MHz) δ 13.08 (1H, s), 8.06 (1H, s), 7.87 (2H, m), 7.73 (1H, m), 7.65 (1H, m), 7.35 (1H, d, J=7.5 Hz), 7.27 (1H, d, J=7.9 Hz), 4.11-4.03 (2H, m), 3.15 (3H, s).

reactant | Lithium hydroxide monohydrate | 54.7 mmol, 2.29 g | O.[OH-].[Li+]
reactant | methyl 2-(methoxymethyl)-2′-(trifluoromethyl)biphenyl-4-carboxylate | 27.3 mmol, 8.0 g | COCC1=C(C=CC(=C1)C(=O)OC)C1=C(C=CC=C1)C(F)(F)F | C17H15F3O3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | MeOH | 30 mL | CO | CH4O
solvent | water | 30 mL | O | H2O
product | 2-(methoxymethyl)-2′-(trifluoromethyl)biphenyl-4-carboxylic acid | 6.2 g, 74% | COCC1=C(C=CC(=C1)C(=O)O)C1=C(C=CC=C1)C(F)(F)F | C16H13F3O3
